US09290517B2
(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-vinyl-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol
A stirred suspension of (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one (75.4 mg, 0.168 mmol) in THF (1.6 ml) was degassed (3×) and placed under nitrogen after being cooled to 0° C. in an ice bath. Vinylmagnesium bromide (1.6 ml, 1.600 mmol) was added to the reaction mixture slowly. The reaction mixture was stirred at 0° C. for 20 min, then at room temperature for 1.5 h. The reaction mixture was added via pipette to saturated aqueous NaHCO3 (20 ml) before being partitioned between EtOAc (40 ml) and water (20 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×20 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a yellow residue. This material was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient, followed by a 100% acetonitrile+0.05% TFA. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C26H22ClN3O4 475.13 observed m/e: 476.18 (M+H)+ (Rt 1.21/2 min).

reactant | (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | 0.168 mmol, 75.4 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=O | C24H18ClN3O4
reactant | Vinylmagnesium bromide | 1.600 mmol, 1.6 ml | C(=C)[Mg]Br
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-vinyl-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)C=C | C26H22ClN3O4
